US05169817
Preparation of (pentamethylcyclopentadienyl) (cyclopentadienyl)chromium (II) [Cr(C5 (CH3)5)(C5H5)]
The preparation was substantially the same as that described in Example 1 for [Cr(C5 (CH3)5)(C6H9)] except that cyclopentadienyl sodium was used in place of 2-methyl pentadienyl lithium. (Cyclopentadienyl lithium could also have been used). The crystalline product isolated from this preparation was purified by sublimation. Excess [Cr(C5H5)2 ] was removed by sublimation at 40° C. and about 1 Pa. [Cr(C5 (CH3)5)(C5H5)] was then sublimed at 70° C. and about 1 Pa.

reactant | (pentamethyl cyclopentadienyl) (2-methyl pentadienyl)chromium (II) | CC1=C(C(=C(C1(C)[Cr]C=C(C=CC)C)C)C)C
reactant | cyclopentadienyl sodium | C1(C=CC=C1)[Na]
reactant | Cyclopentadienyl lithium | C1(C=CC=C1)[Li]
product | (pentamethylcyclopentadienyl) (cyclopentadienyl)chromium (II) | CC1=C(C(=C(C1(C)[Cr]C1C=CC=C1)C)C)C | InChI=1S/C10H15.C5H5.Cr/c1-6-7(2)9(4)10(5)8(6)3;1-2-4-5-3-1;/h1-5H3;1-5H;
